US04598090
3-Benzylidene-6-hydroxy-1,2,3,9-tetrahydro-cyclopenta[b][1]benzopyran-9-one (1.2 g) was reacted with 4-(2-chloro-ethyl)-morpholine (1.15 g) in dimethylformamide (50 ml), in the presence of anhydrous K2CO3 (1.7 g), under stirring for 4 hours at room temperature and then for 1 hour at 70° C. The reaction mixture was diluted with ice water containing NaH2PO4 and the precipitated product was filtered and washed with water. Crystallization from CH2Cl2 /isopropyl alcohol gave 0.9 g of 3-benzylidene-6-(2-morpholino-ethoxy)-1,2,3,9-tetrahydro-cyclopenta[b][1]benzopyran-9-one, m.p. 167°-169° C.

reactant | 3-Benzylidene-6-hydroxy-1,2,3,9-tetrahydro-cyclopenta[b][1]benzopyran-9-one | 1.2 g | C(C1=CC=CC=C1)=C1CCC2=C1OC1=C(C2=O)C=CC(=C1)O | C19H14O3
reactant | 4-(2-chloro-ethyl)-morpholine | 1.15 g | ClCCN1CCOCC1 | C6H12ClNO
reactant | K2CO3 | 1.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-benzylidene-6-(2-morpholino-ethoxy)-1,2,3,9-tetrahydro-cyclopenta[b][1]benzopyran-9-one | 0.9 g | C(C1=CC=CC=C1)=C1CCC2=C1OC1=C(C2=O)C=CC(=C1)OCCN1CCOCC1 | C25H25NO4
